US08202858B2
4-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric Acid
Trifluoroacetic acid (5 ml) was added to a solution of 4-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric acid tert-butyl ester from Example E76.1 (80 mg, 0.17 mmol) in dichloromethane (10 ml). The mixture was stirred for 2 h at room temperature, concentrated in vacuo and azeotroped with dichloromethane to yield the title compound (71 mg, 100%).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C27H32N4O4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric Acid | 71 mg, 100% | CC1=C(OCCCC(=O)O)C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | C23H24N4O4
